US05614531
6.6 g of 4-(7-cyanoimidazo[1,2-a]pyridin-2-yl)benzoic acid [obtainable as in Example 5]in 100 ml of dichloromethane and 25 ml of DMF are stirred with 4.5 g of β-alanine tert-butyl ester in the presence of 5.25 g of N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide and 6 ml of N-methylmorpholine at room temperature for 20 h. This is followed by extraction 3-4 times with 30 ml of water each time, evaporation and the customary working-up. Tert-butyl 3-[4-(7-cyanoimidazo[1,2-a]pyridin-2-yl)benzamido]propionate is obtained, m.p. 212° (decomposition).

reactant | 4-(7-cyanoimidazo[1,2-a]pyridin-2-yl)benzoic acid | 6.6 g | C(#N)C1=CC=2N(C=C1)C=C(N2)C2=CC=C(C(=O)O)C=C2 | C15H9N3O2
reactant | β-alanine tert-butyl ester | 4.5 g | C(C)(C)(C)OC(CCN)=O | C7H15NO2
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide | 5.25 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | N-methylmorpholine | 6 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | Tert-butyl 3-[4-(7-cyanoimidazo[1,2-a]pyridin-2-yl)benzamido]propionate | C(#N)C1=CC=2N(C=C1)C=C(N2)C2=CC=C(C(=O)NCCC(=O)OC(C)(C)C)C=C2 | C22H22N4O3
